US07399759B2
N-Ethyl-N′-[2-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]ethyl]urea
A mixture of 2-[6-(2-aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (0.45 g, 1.1 mmol), potassium carbonate (0.47 g, 3.4 mmol) and acetonitrile (26 ml) was stirred at room temperature for 20 minutes. Successively ethyl isocyanate (0.36 g, 5.1 mmol) was added to the mixture, and the mixture was refluxed for 3 hrs. After cooling, the precipitates were collected by filtration, dissolved in chloroform and subjected to a silica gel column chromatography. The fractions eluted with chloroform-ethanol (15:1, v/v) were collected, concentrated and recrystallized from chloroform-hexane to give the titled compound (0.25 g, 63%) as white crystals.

reactant | 2-[6-(2-aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.1 mmol, 0.45 g | FC(C(=O)O)(F)F.NCCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | potassium carbonate | 3.4 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl isocyanate | 5.1 mmol, 0.36 g | C(C)N=C=O | C3H5NO
solvent | acetonitrile | 26 ml | C(C)#N | C2H3N
product | N-Ethyl-N′-[2-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]ethyl]urea | 0.25 g, 63% | C(C)NC(=O)NCCC1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C18H18N4O2S
